Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
vomiting
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ w/dementia who presents with nausea and vomiting. Per her 
daughter the symptoms have been going on for about a week 
progressively gotten worse. It is unclear when her last bowel 
movement was. Per ED discussion with nursing home  they noticed 
that she was increasingly more paranoid and agitated last week 
for unclear reasons. Per the nursing home a UA was done and was 
negative. 

In ED pt hypokalemic 2.5. Given 100meq KCl, 1Lns, Zofran, 
morphine.

On arrival to the floor pt reports that she has only been 
vomiting for a day and that she now feels completely back to 
baseline with no GI complaints. No recent changes in medication, 
no sick contacts.
ROS: +as above, otherwise reviewed and negative

 
Past Medical History:
high blood pressure 
hyperlipidemia 
dementia
 
Social History:
___
Family History:
no GI disease
 
Physical Exam:
Vitals: T:98.3 BP:134/68 P:100 R:20 O2:98%ra  
PAIN: 
General: nad
EYES: anicteric
Lungs: clear
CV: rrr no m/r/g
Abdomen: bowel sounds present, soft, nt/nd
Ext: no e/c/c
Skin: no rash
Neuro: alert, follows commands
 
Pertinent Results:
CT ABD & PELVIS WITH CO IMPRESSION
1. Hypoenhancement of the upper pole of the left kidney. The 
differential
would include focal pyelonephritis or infarct. Correlation with 
urinalysis is recommended.
2. No evidence of obstruction.
3. Diverticulosis without evidence of diverticulitis.
4. A 1.4 cm right adnexal cyst. In a postmenopausal patient, 
pelvic
ultrasound suggested on a nonurgent basis.

CT HEAD W/O CONTRAST IMPRESSION: No acute intracranial process. 

CHEST (PA & LAT) IMPRESSION:  No acute cardiopulmonary process. 

___ 01:31AM   GLUCOSE-110* UREA N-18 CREAT-0.8 SODIUM-137 
POTASSIUM-3.6 CHLORIDE-96 TOTAL CO2-27 ANION GAP-18
___ 07:00PM   ALT(SGPT)-81* AST(SGOT)-60* ALK PHOS-79 TOT 
BILI-0.2
___ 07:00PM   LIPASE-38
___ 07:00PM   ALBUMIN-4.7 CALCIUM-10.3 PHOSPHATE-2.4* 
MAGNESIUM-1.7
___ 07:00PM   ASA-19.2 ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:00PM   WBC-11.0* RBC-3.91 HGB-12.5 HCT-35.6 MCV-91 
MCH-32.0 MCHC-35.1 RDW-12.7 RDWSD-41.1
___ 07:00PM   NEUTS-81.3* LYMPHS-10.8* MONOS-7.1 EOS-0.1* 
BASOS-0.2 IM ___ AbsNeut-8.98* AbsLymp-1.19* AbsMono-0.78 
AbsEos-0.01* AbsBaso-0.02
___ 07:00PM   PLT COUNT-536*
___ 12:59AM URINE  RBC-5* WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-<1 TRANS EPI-<1
___ 12:59AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-40 BILIRUBIN-NEG UROBILNGN-NEG PH-7.0 
LEUK-NEG
___ 12:59AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 12:59AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG

___ 09:51PM BLOOD Glucose-102* UreaN-20 Creat-0.8 Na-135 
K-3.1* Cl-94* HCO3-27 AnGap-17
___ 01:31AM BLOOD Glucose-110* UreaN-18 Creat-0.8 Na-137 
K-3.6 Cl-96 HCO3-27 AnGap-18
___ 07:23AM BLOOD Glucose-105* UreaN-16 Creat-0.7 Na-135 
K-3.2* Cl-96 HCO3-27 AnGap-15
___ 06:25AM BLOOD Glucose-101* UreaN-12 Na-135 K-3.9 Cl-97 
HCO3-30 AnGap-___ with dementia, HTN admitted with hypokalemia in setting of 
N/V and HCTZ.  

# Hypokalemia
# Nausea w/ vomiting (resolved)
# HTN
# Dementia
# Abnl CT renal finding
# Microscopic hematuria
# Hyperlipidemia

Potassium was repleted, HCTZ was discontinued and Lisinopril was 
increased to 10mg (she was already on 5mg daily, unknown at time 
of admission). Her nausea resolved and there was no vomiting. A 
diet was advanced and well-tolerated. A CT scan done in the ER 
showed left upper renal pole abnormality of unclear etiology, 
and she has microscopic hematuria (daughter informed) for which 
she will need follow up. She will continue Donepezil and 
Atorvastatin.

Trainsitional Issue:
[ ] f/u with PCP for BP, chem10 and f/u eval hematuria and renal 
CT
finding
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. Namenda XR (MEMAntine) 28 mg oral DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Atorvastatin 10 mg PO QPM 
5. Donepezil 10 mg PO QHS 
6. Lisinopril 5 mg PO DAILY 

 
Discharge Medications:
1. Atorvastatin 10 mg PO QPM 
2. Donepezil 10 mg PO QHS 
3. Multivitamins 1 TAB PO DAILY 
4. Namenda XR (MEMAntine) 28 mg oral DAILY 
5. Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hyopokalemia
HTN
Dementia
Microscopic hematuria, CT left renal upper pole hypodensity

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with low postassium, likely related to HCTZ 
and some vomiting that you had. This medication was stopped. 
Potassium was repleted and you were increased on Lisinopril to 
10mg for your blood pressure.  You will need to f/u with PCP for 
BP monitoring and renal function / electrolyte check next week.

You had incidental microscopic hematuria noted on urinalysis, 
and a non-specific abnormality of left upper kidney which needs 
to be further evaluated / followed up with your PCP. 
 
Followup Instructions:
___